US08440691B2
N-(6-methyl-3,4-dihydro-2H-chromen-4-yl)-N′-quinolin-5-ylurea
This compound was made following the procedure of Example 5, except substituting 5-aminoquinoline for 5-aminoisoquinoline and 6-methyl-chroman-4-ylamine for 7-trifluoromethyl-chroman-4-ylamine. 1H NMR (300 MHz, DMSO-d6) δ 8.90 (m, 1H), 8.60 (s, 1H), 8.47 (m, 1H), 8.18 (m, 1H), 7.68 (m, 2H), 7.57 (m, 1H), 7.16 (m, 1H), 7.08 (d, J=7.5 Hz, 1H), 7.00 (m, 1H), 6.71 (d, J=7.5 Hz, 1H), 4.93 (m, 1H), 4.31-4.10 (m, 2H), 2.21 (s, 3H), 2.20-1.93 (m, 2H). MS (ESI) m/e 334 (M+H)+. Calcd. For C20H19N3O2.0.1; H2O: C, 71.67; H, 5.77; N, 12.54. Found: C, 71.65; H, 5.83; N, 12.30.

reactant | 5-aminoisoquinoline | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | 6-methyl-chroman-4-ylamine | CC=1C=C2C(CCOC2=CC1)N | C10H13NO
reactant | 7-trifluoromethyl-chroman-4-ylamine | FC(C1=CC=C2C(CCOC2=C1)N)(F)F | C10H10F3NO
reactant | H2O | O | H2O
product | N-(6-methyl-3,4-dihydro-2H-chromen-4-yl)-N′-quinolin-5-ylurea | CC=1C=C2C(CCOC2=CC1)NC(=O)NC1=C2C=CC=NC2=CC=C1 | C20H19N3O2
